US06576632B1
1-Benzylamino-2-benzylcyclohexane
In a series of procedures similar to preparations A and B, 2-benzyl cyclohexanone was converted into 1-amino-2-benzylcyclohexane in 65% via the intermediate oxime. This material (3.05 g, 16.1 mmol) was then converted to the title compounds in a procedure similar to preparation C, isolated as an oil:

reactant | 2-benzyl cyclohexanone | C(C1=CC=CC=C1)C1C(CCCC1)=O | C13H16O
reactant | 1-amino-2-benzylcyclohexane | NC1C(CCCC1)CC1=CC=CC=C1 | C13H19N
product | 1-Benzylamino-2-benzylcyclohexane | C(C1=CC=CC=C1)NC1C(CCCC1)CC1=CC=CC=C1 | C20H25N
